* tb_pex_tran_tt - closed-loop load-step droop, C-extracted DUT, tt
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /foss/designs/ldo_project/layout/ldo_pex_closed.spice

Vdd  vdd 0 1.8
Ib   vdd vbias 10u
Vref vref 0 0.9
Ven  load_en 0 pulse(0 1.8 20u 200n 200n 1 2)
X1 vref vbias vldo load_en vdd 0 ldo_pex_closed
CL  vldo 0 100p
IL  vldo 0 100u

.option rshunt=1e12 noopiter
.nodeset v(vldo)=1.5
.tran 50n 60u

.control
run
meas tran vpre   avg v(vldo) from=15u to=19u
meas tran vmin   min v(vldo) from=19u to=30u
meas tran vfinal avg v(vldo) from=50u to=60u
set hcopydevtype=svg
hardcopy tran_step_pex_tt.svg v(vldo)
.endc
.end
